US05462954
2-Fluoro-6-[2-propyl-3-[3-[2-ethyl-5-hydroxy-4-(4-fluorophenyl)phenoxy]propoxy]phenoxy]benzoic acid disodium salt hydrate
To a solution of 2-fluoro-6-[2-propyl-3-[3-[4-bromo-2-ethyl-5-(phenylmethoxy)phenoxy]propoxy]phenoxy]benzoic acid methyl ester (1.77 g, 2.72 mmol) in benzene (12 mL) was added tetrakis(triphenylphosphine)palladium(0) (0.33 g, 0.30 mmol) and 2.0M aqueous sodium carbonate (4 mL). To this mixture was added a solution of 4-fluorophenylboronic acid (4.10 g, 8.16 mmol) in ethanol (5 mL). The resulting mixture was refluxed for 4 hours then cooled to room temperature. The mixture was diluted with ethyl acetate and shaken. The organic layer was washed once with water and once with 1N aqueous sodium hydroxide, dried over sodium sulfate, filtered, and concentrated in vacuo to provide an oil. De-benzylation and hydrolysis proceeded as described above for the preparation of Example 60. Salt formation and purification as described above for the preparation of Example 59(D) provided 403 mg (25%) of the desired title product as a fluffy white solid: NMR (DMSO-d6 ) 9.83 (bs, 1H), 7.50 (m, 2H), 6.96-7.16 (m, 4H), 6.96 (s, 1H), 6.74 (t, J=8.4 Hz, 2H), 6.57 (s, 1H), 6.40 (d, J=8.3 Hz, 1H), 6.35 (d, J=8.3 Hz, 1H), 4.16 (t, J=5.7 Hz, 2H), 4.05 (t, J=5.5 Hz, 2H), 2.40-2.58 (m, 4H), 2.18 (quintet, J=4.1 Hz, 2H), 1.41 (hextet, J=7.4 Hz, 2H), 1.07 (t, J=7.5 Hz, 3H), 0.80 (t, J=7.3 Hz, 3H); MS-FAB m/e 586 (p+1, 35), 585 (p, 100), 562 (33), 313 (30). IR (CHCl3, cm-1) 3300 (b), 2967, 1616, 1455, 1398, 1115. Analysis for C33H31O6F2Na.H2O: Calc: C, 65.77; H, 5.52; Found: C, 65.81; H, 5.41.

reactant | 2-fluoro-6-[2-propyl-3-[3-[4-bromo-2-ethyl-5-(phenylmethoxy)phenoxy]propoxy]phenoxy]benzoic acid methyl ester | 2.72 mmol, 1.77 g | COC(C1=C(C=CC=C1OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)CC)CCC)F)=O | C35H36BrFO6
reactant | sodium carbonate | 2.0M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorophenylboronic acid | 8.16 mmol, 4.10 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | benzene | 12 mL | C1=CC=CC=C1 | C6H6
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.30 mmol, 0.33 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Fluoro-6-[2-propyl-3-[3-[2-ethyl-5-hydroxy-4-(4-fluorophenyl)phenoxy]propoxy]phenoxy]benzoic acid disodium salt hydrate | 403 mg, 25% | O.[Na+].[Na+].FC1=C(C(=O)[O-])C(=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)O)C1=CC=C(C=C1)F)CC)CCC.FC1=C(C(=O)[O-])C(=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)O)C1=CC=C(C=C1)F)CC)CCC | InChI=1S/2C33H32F2O6.2Na.H2O/c2*1-3-8-24-28(10-6-11-29(24)41-30-12-5-9-26(35)32(30)33(37)38)39-17-7-18-40-31-20-27(36)25(19-21(31)4-2)22-13-15-23(34)16-14-22;;;/h2*5-6,9-16,19-20,36H,3-4,7-8,17-18H2,1-2H3,(H,37,38);;;1H2/q;;2*+1;/p-2
